US04477462
1-Methyl-3,4-dichloro-5-(4-chlorobenzylthio)pyrazole
A stirred mixture of 10.3 g (0.065 moles) 4-chlorobenzyl mercaptan and 3.0 g (0.054 moles) potassium hydroxide in 50 ml dimethylsulfoxide was heated (at about 120° C.) for about 20 minutes. Then 10 g (0.054 moles) 1-methyl-3,4,5-trichloropyrazole were added. Heating (at about 120° C.) of the stirred reaction mixture was continued for about 4 hours. The reaction mixture was allowed to cool. The reaction mixture was added to water (about 50 ml); the resulting mixture was extracted with ether. The etheral phase was separated and dried over magnesium sulfate. The solvent was stripped and the residue was hard-topped. The product was purified by high pressure liquid chromatography to give 6 g.

reactant | 4-chlorobenzyl mercaptan | 0.065 moles, 10.3 g | ClC1=CC=C(CS)C=C1 | C7H7ClS
reactant | potassium hydroxide | 0.054 moles, 3.0 g | [OH-].[K+]
reactant | 1-methyl-3,4,5-trichloropyrazole | 0.054 moles, 10 g | CN1N=C(C(=C1Cl)Cl)Cl | C4H3Cl3N2
reactant | water | about 50 ml | O | H2O
solvent | dimethylsulfoxide | 50 ml | CS(=O)C | C2H6OS
product | 1-Methyl-3,4-dichloro-5-(4-chlorobenzylthio)pyrazole | CN1N=C(C(=C1SCC1=CC=C(C=C1)Cl)Cl)Cl | C11H9Cl3N2S
